US08703810B2
To a suspension of 4-hydroxy-2-methyl benzoic acid (10.0 g, 65.7 mmol) and cesium carbonate (53.5 g, 164.3 mmol) in DMF (70 mL) at 0° C., iodomethane (10.3 mL, 164.3 mmol) in DMF (10 mL) was added over 20 min. The reaction warmed from 0° C. to room temperature overnight. The mixture filtered and washed with ether. The filtrate was washed with water and the layers separated. The aqueous was washed with ether (3×100 mL). The organics were combined and washed with H2O then brine, dried over Na2SO4, and concentrated under reduced pressure to give methyl 4-methoxy-2-methylbenzoate (11.4 g) as a yellow oil. 1H NMR (300 MHz, CDCl3): δ 7.95 (m, 1H), 6.76 (m, 2H), 3.87 (s, 3H), 3.85 (s, 3H), 2.62 (s, 3H).

reactant | 4-hydroxy-2-methyl benzoic acid | 65.7 mmol, 10.0 g | OC1=CC(=C(C(=O)O)C=C1)C | C8H8O3
reactant | cesium carbonate | 164.3 mmol, 53.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 164.3 mmol, 10.3 mL | IC | CH3I
reactant | DMF | 70 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 4-methoxy-2-methylbenzoate | 11.4 g | COC1=CC(=C(C(=O)OC)C=C1)C | C10H12O3
